### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions): arithmetic-geometric mean

### PR DESCRIPTION
**Pull request by Parcly-Taxel**

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 1]
```diff
@@ -0,0 +1,242 @@
...
+lemma agmStep_iterate_comm {n : ℕ} (hn : n ≠ 0) : agmStep^[n] (g, a) = agmStep^[n] (a, g) := by
+  rw [← Nat.sub_one_add_one hn, iterate_add, iterate_one, comp_apply]
+  congr 1
+  simp only [agmStep, add_comm, mul_comm]
+
+section
+
+include h
+
+lemma agmStep_bounds :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: In the French math curriculum, we have the concept of “suites adjacentes” which is quite useful and would nicely formalize what happens here. (A pair of sequences, one increasing, one decreasing, converging to the same limit.)

Comment (Parcly-Taxel) [reply Mathlib/Analysis/SpecialFunctions/AGM.lean]: Would you like me to make a separate PR introducing that concept? Or does the concept already exist in mathlib?

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 2]
```diff
@@ -0,0 +1,242 @@
...
+lemma sqrt_mul_le_half_add (x y : ℝ≥0) : sqrt (x * y) ≤ (x + y) / 2 := by
+  rw [sqrt_le_iff_le_sq, div_pow, le_div_iff₀' (by positivity), ← mul_assoc]
+  norm_num
+  exact four_mul_le_sq_add ..
+
+open Function
+
+/-- One step of the iteration defining the arithmetic-geometric mean. -/
+noncomputable def agmStep (ga : ℝ≥0 × ℝ≥0) : ℝ≥0 × ℝ≥0 :=
+  (sqrt (ga.1 * ga.2), (ga.1 + ga.2) / 2)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: I think I would define not just `agmStep` as a single step, but define it as a sequence of pairs using `iterate` from the outset.

Optionally, you can get it as a pair of sequences instead of a sequence of pairs using [Equiv.arrowProdEquivProdArrow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Prod.html#Equiv.arrowProdEquivProdArrow), which might be nicer to work with.

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 3]
```diff
@@ -0,0 +1,242 @@
...
+    g ≤ (agmStep^[n] (g, a)).1 ∧ (agmStep^[n] (g, a)).1 ≤ (agmStep^[n] (g, a)).2 ∧
+    (agmStep^[n] (g, a)).2 ≤ a := by
+  induction n with
+  | zero => simpa
+  | succ n ih =>
+    rw [iterate_succ', comp_apply]
+    obtain ⟨i₁, i₂, i₃⟩ := agmStep_bounds ih.2.1
+    exact ⟨ih.1.trans i₁, i₂, i₃.trans ih.2.2⟩
+
+lemma agmStep_iterate_fst_monotone : Monotone fun n ↦ (agmStep^[n] (g, a)).1 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: If you follow my advice, this would *literally* be the `fst` of the `agm` pair of sequences, which is nice.

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 4]
```diff
@@ -0,0 +1,242 @@
...
+    simp_rw [iterate_succ', comp_apply, agmStep, sq_sqrt]
+    rw [mul_div_cancel_left₀ _ (gpos.trans_le (agmStep_iterate_bounds h n).1).ne']
+  simp_rw [a_rearrangement]
+  rw [← mul_self_div_self M, ← sq]
+  refine (Tendsto.pow ?_ 2).div tendsto_g (gpos.trans_le (le_ciSup bdd_g 0)).ne'
+  exact (tendsto_add_atTop_iff_nat 1).mpr tendsto_g
+
+/-- The arithmetic-geometric mean of two `NNReal`s. -/
+noncomputable def agm (x y : ℝ≥0) : ℝ≥0 :=
+  (@exists_tendsto_agmStep_iterate x y).choose
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: Here I would connect the sequence information to `agm` using `choose_spec`. I think it's useful to have those lemmas.

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 5]
```diff
@@ -0,0 +1,242 @@
...
+lemma agm_comm : agm x y = agm y x := by
+  have tM := (@exists_tendsto_agmStep_iterate x y).choose_spec.1
+  have tM' := (@exists_tendsto_agmStep_iterate y x).choose_spec.1
+  have eeq : (fun n ↦ (agmStep^[n] (x, y)).1) =ᶠ[atTop] fun n ↦ (agmStep^[n] (y, x)).1 := by
+    rw [EventuallyEq, eventually_atTop]
+    refine ⟨1, fun n hn ↦ ?_⟩
+    rw [agmStep_iterate_comm (Nat.ne_zero_of_lt hn)]
+  exact tendsto_nhds_unique (tM.congr' eeq) tM'
+
+lemma agm_mem_Icc_of_le (h : x ≤ y) : agm x y ∈ Set.Icc x y := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: Again, you can get tighter bounds in terms of the original sequences. Why not do that? Otherwise we're losing all computational power for `agm`.

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 6]
```diff
@@ -0,0 +1,242 @@
...
+
+lemma agm_zero_left : agm 0 x = 0 :=
+  tendsto_nhds_unique (@exists_tendsto_agmStep_iterate 0 x).choose_spec.1
+    (@tendsto_agmStep_iterate_zero x).1
+
+lemma agm_zero_right : agm x 0 = 0 := by
+  rw [agm_comm, agm_zero_left]
+
+/-- The AGM is unchanged if `x` and `y` are replaced by their geometric and arithmetic means. -/
+lemma agm_eq_agm_geometric_arithmetic_means : agm x y = agm (sqrt (x * y)) ((x + y) / 2) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: This would follow trivially if you follow some of my advice, because you can simply show that the `agmStep` of the RHS is just the tail of the `agmStep` of the left-hand side. As-is, you're essentially redoing all of that from scratch.

File: Mathlib/Analysis/SpecialFunctions/AGM.lean [hunk 7]
```diff
@@ -0,0 +1,242 @@
...
+  change M = M'
+  have tM : Tendsto _ _ (𝓝 M) := (@exists_tendsto_agmStep_iterate x y).choose_spec.1
+  have tM' : Tendsto _ _ (𝓝 M') :=
+    (@exists_tendsto_agmStep_iterate (agmStep (x, y)).1 (agmStep (x, y)).2).choose_spec.1
+  simp_rw [Prod.mk.eta, ← iterate_succ_apply, Nat.succ_eq_add_one,
+    tendsto_add_atTop_iff_nat (f := fun n ↦ (agmStep^[n] (x, y)).1)] at tM'
+  exact tendsto_nhds_unique tM tM'
+
+lemma agm_mem_Ioo_of_pos_of_lt (hx : 0 < x) (h : x < y) : agm x y ∈ Set.Ioo x y := by
+  rw [agm_eq_agm_geometric_arithmetic_means]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM.lean]: again, you can get tighter bounds in terms of `agmStep`.

**Review by j-loreaux — COMMENTED** [review]
There's lots of room for improvement here still, but it's nice to have this concept. Thanks Jeremy!

File: Mathlib/Analysis/SpecialFunctions/AGM.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/SpecialFunctions/AGM.lean]: What do you mean?

**Review by j-loreaux — COMMENTED** [review]
Okay, it's better to do it as a sequences of pairs I think, sorry that I may have suggested a pair of sequences. The advantage of doing it as a sequence of pairs is that you get to prove things by induction.

Oh, I think it's also useful to start from `n + 1` so that you get monotonicity everywhere. The alternative is to define it in terms of `min x y` and `max x y`, but I don't think that's any more useful.

Here's a decent start on this. Please continue:
```lean
/-- `agmSequences x y` returns the pair of sequences converging to the arithmetic-geometric mean
starting from `x` and `y`, with the sequence of geometric means first. -/
noncomputable def agmSequences (x y : ℝ≥0) : ℕ → ℝ≥0 × ℝ≥0 :=
  fun n ↦ (fun p ↦ (sqrt (p.1 * p.2), (p.1 + p.2) / 2))^[n + 1] (x, y)

variable {x y : ℝ≥0} {m n : ℕ}

@[simp]
lemma agmSequences_zero : agmSequences x y 0 = (sqrt (x * y), (x + y) / 2) := rfl

lemma agmSequences_succ :
    agmSequences x y (n + 1) = agmSequences (sqrt (x * y)) ((x + y) / 2) n :=
  rfl

lemma agmSequences_comm : agmSequences x y = agmSequences y x := by
  funext n
  cases n with
  | zero => simp [mul_comm, add_comm]
  | succ n => simp [agmSequences_succ, mul_comm, add_comm]

lemma le_gm_and_am_le (x y : ℝ≥0) (h : x ≤ y) :
    x ≤ sqrt (x * y) ∧ (x + y) / 2 ≤ y := by
  constructor
  · rw [NNReal.le_sqrt_iff_sq_le, sq]
    gcongr
  · apply div_le_of_le_mul'
    rw [two_mul]
    gcongr

lemma agmSequences_monotone_and_antitone :
    Monotone (fun n ↦ (agmSequences x y n).1) ∧ Antitone (fun n ↦ (agmSequences x y n).2) := by
  suffices ∀ n, (agmSequences x y n).1 ≤ (agmSequences x y (n + 1)).1 ∧
      (agmSequences x y (n + 1)).2 ≤ (agmSequences x y n).2
    from ⟨monotone_nat_of_le_succ (this · |>.1), antitone_nat_of_succ_le (this · |>.2)⟩
  intro n
  induction n generalizing x y with
  | zero => exact le_gm_and_am_le _ _ <| sqrt_mul_le_half_add x y
  | succ n ih => exact Prod.mk_le_mk.mp ih

lemma agmSequences_fst_monotone : Monotone (fun n ↦ (agmSequences x y n).1) :=
  agmSequences_monotone_and_antitone.left

lemma agmSequences_snd_antitone : Antitone (fun n ↦ (agmSequences x y n).2) :=
  agmSequences_monotone_and_antitone.right

lemma agmSequences_fst_le_snd (n m : ℕ) :
    (agmSequences x y n).1 ≤ (agmSequences x y m).2 := by
  suffices ∀ {k}, (agmSequences x y k).1 ≤ (agmSequences x y k).2 by
    obtain (h | h) := le_total n m
    · exact (agmSequences_fst_monotone h).trans this
    · exact this.trans (agmSequences_snd_antitone h)
  intro k
  induction k generalizing x y with
  | zero => exact sqrt_mul_le_half_add x y
  | succ n ih => exact ih ..

lemma agmSequences_min_max : agmSequences (min x y) (max x y) = agmSequences x y := by
  funext n
  induction n with
  | zero => simp [min_add_max, mul_comm]
  | succ n ih =>
    sorry

lemma dist_agmSequences_fst_snd (n : ℕ) :
    dist (agmSequences x y n).1 (agmSequences x y n).2 ≤ dist x y / 2 ^ (n + 1) := by
  sorry
```

File: Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,265 @@
...
+      k • (fun p ↦ (sqrt (p.1 * p.2), (p.1 + p.2) / 2))^[n + 1] (x, y) by
+    simpa using congr_arg Prod.snd this
+  set m := n + 1
+  induction m with
+  | zero => simp
+  | succ m ih =>
+    simp_rw [iterate_succ', comp_apply, ih, Prod.smul_mk, Prod.smul_fst, Prod.smul_snd, smul_eq_mul]
+    congr
+    · rw [mul_mul_mul_comm, sqrt_mul, sqrt_mul_self]
+    · rw [← mul_add, mul_div_assoc]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean]:
```suggestion
  simp_rw [agm, mul_iInf]
  congr! with n
  induction n generalizing x y with
  | zero => simp [← mul_div_assoc, mul_add]
  | succ n ih =>
    rw [agmSequences_succ, ← mul_add, mul_div_assoc, mul_mul_mul_comm,
      ← sq, sqrt_mul, sqrt_sq, ih, agmSequences_succ]
```

File: Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,265 @@
...
+  refine tendsto_nhds_unique ?_ tendsto_agmSequences_snd_agm
+  have key := @tendsto_agmSequences_snd_agm x y
+  rw [← tendsto_add_atTop_iff_nat (n + 1)] at key
+  convert key using 2 with m
+  simp_rw [agmSequences, Prod.mk.eta, ← iterate_add_apply, add_right_comm]
+
+lemma agm_eq_agm_gm_am : agm x y = agm (sqrt (x * y)) ((x + y) / 2) := by
+  simpa using agm_eq_agm_agmSequences_fst_agmSequences_snd 0
+
+lemma min_lt_agm_of_pos_of_ne (hx : 0 < x) (hy : 0 < y) (hn : x ≠ y) : min x y < agm x y := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean]: I'm fine with these `min` and `max` lemmas for now, but really you could show that `(agmSequences x y n).1 < agm x y < (agmSequences x y n).2` under the same hypotheses.

File: Mathlib/Analysis/SpecialFunctions/ArithmeticGeometricMean.lean
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ArithmeticGeometricMean.lean:1]: Does this really need it's own folder? I think we should just have `Mathlib/Analysis/SpecialFunctions/ArithmeticGeometricMean.lean`.

**Review by j-loreaux — COMMENTED** [review]
These are my last comments. Please ping again when you are finished.

File: Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean (hunk 9 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/SpecialFunctions/AGM/Basic.lean]: @j-loreaux All done.

**Review by j-loreaux — COMMENTED** [review]
bors merge
